US09382228B2
A solution of 4-((6-nitropyridin-3-yl)oxy)-6′-(trifluoromethyl)-2,3′-bipyridine (0.177 g, 0.489 mmol) in MeOH (10 mL) was treated with 10% Pd/C (50% wet, 0.052 g, 0.049 mmol) and hydrogenated (1 atm) for 5 h. The solid was removed via filtration through diatomaceous earth, and the filtrate was concentrated to dryness and purified via silica gel chromatography (MeOH/EtOAc) to afford 5-((6′-(trifluoromethyl)-[2,3′-bipyridin]-4-yl)oxy)pyridin-2-amine (63 mg, 39%). 1H NMR (400 MHz, DMSO-d6): δ 9.39 (s, 1H), 8.66 (d, J=8.4 Hz, 1H), 8.57 (d, J=5.7 Hz, 1H), 8.00 (d, J=8.2 Hz, 1H), 7.85 (d, J=2.9 Hz, 1H), 7.75 (d, J=2.4 Hz, 1H), 7.33 (dd, J=8.9, 3.0 Hz, 1H), 6.86 (dd, J=5.7, 2.4 Hz, 1H), 6.53 (d, J=8.9 Hz, 1H), 6.05 (s, 2H); MS (ESI) m/z: 333.1 (M+H+).

reactant | 4-((6-nitropyridin-3-yl)oxy)-6′-(trifluoromethyl)-2,3′-bipyridine | 0.489 mmol, 0.177 g | [N+](=O)([O-])C1=CC=C(C=N1)OC1=CC(=NC=C1)C=1C=NC(=CC1)C(F)(F)F | C16H9F3N4O3
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 0.049 mmol, 0.052 g | [Pd] | Pd
product | 5-((6′-(trifluoromethyl)-[2,3′-bipyridin]-4-yl)oxy)pyridin-2-amine | 63 mg, 39% | FC(C1=CC=C(C=N1)C1=NC=CC(=C1)OC=1C=CC(=NC1)N)(F)F | C16H11F3N4O
